US09108977B2
To a solution of 4.37 g of ethyl 7-amino-8-bromo-6-chloro-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate in 40 ml of DMF were added 2.1 ml of ethyl acrylate, 230 mg of tris-o-tolylphosphine, 85 mg of palladium(II) acetate, and 3.6 ml of triethylamine, followed by stirring at 120° C. for 3 hours. The reaction mixture was diluted with EtOAc, washed with water and saturated brine, dried over anhydrous sodium sulfate, and then filtered, and the filtrate was concentrated under reduced pressure. The resulting yellow solid was stirred and washed in diisopropylether to obtain 3.125 g of ethyl 7-amino-6-chloro-8-[(1E)-3-ethoxy-3-oxoprop-1-en-1-yl]-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate as a pale yellow solid.

reactant | ethyl 7-amino-8-bromo-6-chloro-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate | 4.37 g | NC1=C(C2=C(CCN(CC2)C(=O)OCC)C=C1Br)Cl | C13H16BrClN2O2
reactant | ethyl acrylate | 2.1 ml | C(C=C)(=O)OCC | C5H8O2
reactant | tris-o-tolylphosphine | 230 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | triethylamine | 3.6 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | palladium(II) acetate | 85 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | ethyl 7-amino-6-chloro-8-[(1E)-3-ethoxy-3-oxoprop-1-en-1-yl]-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate | 3.125 g | NC1=C(C2=C(CCN(CC2)C(=O)OCC)C=C1\C=C\C(=O)OCC)Cl | C18H23ClN2O4
